US06528510B1
2-(Methyloxycarbonyl)amino-4-isopropyl-7-methyl-benzothiazole-6-thiol
The title compound was prepared according to General Method 14 using 2-(methyloxycarbonyl)amino-4-isopropyl-7-methyl-6-thiocyanato-benzothiazole (1.5 g, 4.7 mmol), dithiothreitol (2.9 g, 18.7 mmol), EtOH (50 mL), and phosphate buffer (15 mL). MS (APCI): 296 (M−H).

reactant | 2-(methyloxycarbonyl)amino-4-isopropyl-7-methyl-6-thiocyanato-benzothiazole | 4.7 mmol, 1.5 g | COC(=O)NC=1SC2=C(N1)C(=CC(=C2C)SC#N)C(C)C | C14H15N3O2S2
reactant | dithiothreitol | 18.7 mmol, 2.9 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | 15 mL | P(=O)([O-])([O-])[O-]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-(Methyloxycarbonyl)amino-4-isopropyl-7-methyl-benzothiazole-6-thiol | COC(=O)NC=1SC2=C(N1)C(=CC(=C2C)S)C(C)C | C13H16N2O2S2
